US03987160
3-Benzylbenzamidine hydrochloride (12.3 g.) and ethyl α-oximinocyanoacetate (7.1 g.) were added to a solution of sodium (4.6 g.) in anhydrous ethanol (60 ml.). The mixture was heated under reflux with stirring for 5 hours and then allowed to stand at room temperature overnight. The mixture was poured into water (600 ml.), acidified to pH 5 with glacial acetic acid and chilled for 3 hours. The solid obtained was filtered off and washed with water to give 4-amino-2-(3-benzylphenyl)-5-nitrosopyrimid-6-one (11.95 g.), m.p. 145°-148° C. (with decomposition).

reactant | 3-Benzylbenzamidine hydrochloride | 12.3 g | Cl.C(C1=CC=CC=C1)C=1C=C(C(=N)N)C=CC1
reactant | ethyl α-oximinocyanoacetate | 7.1 g | N(O)=C(C(=O)OCC)C#N | C5H6N2O3
reactant | sodium | 4.6 g | [Na] | Na
reactant | water | 600 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-2-(3-benzylphenyl)-5-nitrosopyrimid-6-one | 11.95 g | NC=1N=C(NC(C1N=O)=O)C1=CC(=CC=C1)CC1=CC=CC=C1 | C17H14N4O2
